US04022777
A suspension of 5 parts of 2,3-diamino-6-chloroquinoxaline and 6 parts of butyric anhydride in 350 parts of tetrahydrofuran was heated at reflux under nitrogen for 1.5 hrs. The yellow, homogeneous reaction mixture was concentrated in vacuo to half volume, and 20 parts of butyric acid was added. After heating at reflux for 30 minutes, the solution was concentrated in vacuo to give a yellow solid. Recrystallization from THF-hexane gave 5.45 parts of nearly colorless 6-chloro-2-propyl-1H-imidazo[4,5-b]quinoxaline, m.p. 280°-282°.

reactant | 2,3-diamino-6-chloroquinoxaline | NC1=NC2=CC=C(C=C2N=C1N)Cl | C8H7ClN4
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-chloro-2-propyl-1H-imidazo[4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CCC | C12H11ClN4
